US06486167B1
d. 6,7-Methylenedioxy-2-tetralone (9)
A solution of 21 (669 mg, 2.83 mmol) in 10 mL glacial acetic acid was placed in a hydrogenation flask. To this mixture 460 mg of 10% Pd-C was added and the resulting mixture was shaken in a Parr apparatus at 40 psig of hydrogen for 40 h. The reaction mixture was filtered through a celite bed, which was washed thrice with 5 mL portions of glacial acetic acid. The glacial acetic acid was rotaevaporated to give the crude tetralone, 9. The crude tetralone was then treated with sodium bisulfite to convert it to the more stable bisulfite adduct. Pure tetralone was generated as required from its bisulfite adduct by treatment with 10% sodium carbonate solution followed by extraction with dichloromethane; mp=91-92° C. (lit144=88-91° C.); IR (Nujol) 1727; 1H NMR δ2.51 (2H, t), 2.97(2H, t), 3.48 (2H, s), 5.92 (2H, s), 6.58 (1H, s), 6.69 (1H, s); 13C NMR δ21.5, 37.7, 45.1, 101.4, 107.5, 118.5, 121.0, 127.8, 144.2, 146.4, 211.5; Anal. calcd for C11H10O3: C, 69.46; H, 5.30; Found: C, 69.40; H, 5.29.

reactant | tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | bisulfite | S([O-])(O)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 6,7-Methylenedioxy-2-tetralone | C1OC=2C=C3CCC(CC3=CC2O1)=O | C11H10O3
